US07989633B2
Ethyl 5-acetyl-2,6-dimethyl-4-(5-fluoro-2-methyl-4-oxo-4H-chromen-8-yl)-1,4-dihydropyridine-3-carboxylate
150 mg (0.52 mmol) of 3-[(5-fluoro-2-methyl-4-oxo-4H-chromen-8-yl)methylene]pentane-2,4-dione are dissolved with 33.6 mg (0.26 mmol) of ethyl 3-aminocrotonate in 5 ml of 2-propanol and heated under reflux under argon for 3 h. The solvent is removed in vacuo, and the residue is purified by column chromatography (mobile phase: ethyl acetate/cyclohexane 2:1). 50.1 mg (48% of theory) of the title compound are obtained as a yellow solid.

reactant | 3-[(5-fluoro-2-methyl-4-oxo-4H-chromen-8-yl)methylene]pentane-2,4-dione | 0.52 mmol, 150 mg | FC1=C2C(C=C(OC2=C(C=C1)C=C(C(C)=O)C(C)=O)C)=O | C16H13FO4
reactant | ethyl 3-aminocrotonate | 0.26 mmol, 33.6 mg | N\C(=C/C(=O)OCC)\C | C6H11NO2
solvent | 2-propanol | 5 ml | CC(C)O | C3H8O
product | Ethyl 5-acetyl-2,6-dimethyl-4-(5-fluoro-2-methyl-4-oxo-4H-chromen-8-yl)-1,4-dihydropyridine-3-carboxylate | C(C)(=O)C=1C(C(=C(NC1C)C)C(=O)OCC)C=1C=CC(=C2C(C=C(OC12)C)=O)F | C22H22FNO5
